US07619101B2
A 750 mL 4-necked sulfonation flask equipped with magnetic stirring bar, thermometer and an argon in/outlet, was charged with 16.87 g (166.7 mmol) diisopropylamine and 100 mL tetrahydrofuran. The solution was cooled to −74° C. and 100 mL butyllithium 1.6M in hexane were added leading to a raise of the internal temperature to −55° C. The light-yellow solution was stirred at −50° C. to −10° C. for 30 min (ice/ethanol cooling bath), then re-cooled to −74° C. and 19.36 g (166.7 mmol) tert-butyl acetate were added dropwise. The slightly turbid solution was stirred at −20° C. for 30 min, then re-cooled to −74° C. and 22.23 g (150 mmol) crude 1-tert-butoxy-3-fluoro-propan-2-one were added dropwise within 15 min. The acetone/CO2 bath was replaced by an ice/water bath and the reaction mixture was stirred at ca. −10° C. for 45 min. After re-cooling to −75° C. 52.5 g (508.5 mmol) sulfuric acid 95% were added drop by drop within 15 min. The resulting two-phase mixture was allowed to attain RT (45 min) and then heated under reflux for 2 h (oil bath temperature 80° C., internal temperature 54-61° C., strong gas evolution). After cooling to RT the mixture was treated with sodium chloride solution 10% (50 mL), the phases were separated and the aqueous layer was extracted with ethyl acetate (5×150 mL). The combined organic phases were washed with sat. sodium bicarbonate solution (2×50 mL) and brine (2×50 mL), dried over magnesium sulfate, filtered and evaporated (40° C./15 mbar) to provide 15.78 g of crude 4-fluoromethyl-4-hydroxy-dihydro-furan-2-one as yellow-brown oil. This material contained 2% acetic acid by 1H-NMR. From the combined aqueous layers an additional 1.38 g of crude 4-fluoromethyl-4-hydroxy-dihydro-furan-2-one were obtained by further extraction with ethyl acetate (2×150 mL) followed by further work-up as described above; combined yield 17.16 g (85.3%) of crude 4-fluoromethyl-4-hydroxy-dihydro-furan-2-one.

reactant | diisopropylamine | 166.7 mmol, 16.87 g | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 1.6M, 100 mL | C(CCC)[Li]
reactant | tert-butyl acetate | 166.7 mmol, 19.36 g | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | 1-tert-butoxy-3-fluoro-propan-2-one | 150 mmol, 22.23 g | C(C)(C)(C)OCC(CF)=O | C7H13FO2
reactant | acetone CO2 | CC(=O)C.C(=O)=O
reactant | sulfuric acid | 508.5 mmol, 52.5 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium chloride | 50 mL | [Cl-].[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 4-fluoromethyl-4-hydroxy-dihydro-furan-2-one | 15.78 g | FCC1(CC(OC1)=O)O | C5H7FO3
